2146-09-14 07:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Sats>96%, decrease O2 requirements
   - doing well on Lasix
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2146-9-14**] 04:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-9-14**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.5
C (95.9
   Tcurrent: 35.4
C (95.8
   HR: 114 (93 - 115) bpm
   BP: 131/75(88) {110/67(76) - 134/78(89)} mmHg
   RR: 21 (20 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    304 mL
                  PO:
                  TF:
   IVF:
                                                                    304 mL
   Blood products:
   Total out:
                                                                  1,400 mL
                                                                  1,000 mL
   Urine:
                                                                  1,400 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,096 mL
                                                                 -1,000 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.40/35/190/26/-1
   PaO2 / FiO2: 190
   Physical Examination
   GENERAL: Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of 10cm.
   CARDIAC: Tachycardic, PMI located in 5th intercostal space,
   midclavicular line. RR, normal S1, S2. No m/r/g. No thrills, lifts. No
   S3 or S4.
   LUNGS: Diffuse rales anterolaterally.  Unable to mobilize patient to
   aucultate bases secondary to sheath.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: 3+ BLE Edema
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ DP dopplerable PT dopplerable
   Left: Carotid 2+ Femoral (Sheath in place) DP dopplerable PT
   dopplerable
   Labs / Radiology
   221 K/uL
   11.7 g/dL
   199 mg/dL
   1.4 mg/dL
   26 mEq/L
   4.2 mEq/L
   24 mg/dL
   95 mEq/L
   133 mEq/L
   34.8 %
   8.7 K/uL
        [image002.jpg]
                            [**2146-9-13**]  07:54 PM
                            [**2146-9-13**]  08:15 PM
                            [**2146-9-14**]  03:25 AM
   WBC
   8.6
   8.7
   Hct
   34.1
   34.8
   Plt
   266
   221
   Cr
   1.3
   1.4
   TCO2
   22
   Glucose
   231
   199
   Other labs: PT / PTT / INR:15.9/32.6/1.4, ALT / AST:237/133, Alk Phos /
   T Bili:70/0.7, Lactic Acid:1.9 mmol/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL,
   PO4:4.6 mg/dL
   Assessment and Plan
   67 yo female with history significant for HTN, DM, and dyslipidedemia
   who presenting with dyspnea and found to have ischemic cardiomyopathy
   (EF 20-25%) and chronic 2 vessel diffuse CAD.
   .
   # CORONARIES:  s/p Cardiac Catheterization that shows LMCA 50% ostial
   lesions, LAD with mid subtotal occlusion. RCA has a mid vessel
   occlusion with collaterals from the LAD to the distal RCA. LCx with no
   significant dz. Patient with multivessel coronary diease.  No evidence
   of new ischemic event.
   - Continue ASA 325mg daily
   - D/C Plavix 75 mg daily
   - Hold Atorvastatin for now in light of LFT abnomalities, trend in AM,
   consider restarting.
   - c/s CT surgery
 recs
   - f/u carotid doppler, UA
   .
   # PUMP:  Acute systolic heart failure.  NHYA Class II-III.  Patient
   with signs of left and right sided heart failure.  The patient had PCWP
   of 43 on Cath and had multivessel CAD.  Likely ischemic CM, with LVEF
   25-30%.  Patient maintaining MAP > 60, has rales on NRB, with slightly
   cool extemities.  As patient continues to maintain MAP > 60, plan to
   intermittantly bolus lasix.  If patient becomes hypotensive, will
   consider starting dobutamine gtt and place A-line and RIJ.  Last ABG
   7.40/35/190/22.  Patient's tachycardia may be a compensatory result and
   may decrease after patient is adequately diursed and back on starling
   curve.
   - Continue Lasix 40mg IV boluses prn, goal negative 1-2L overnight.
   - Hold BB, restarting ACE in AM (captopril 6.25, consider increase as
   tolerated)
   - wean as tolerated
   - Low Na diet, education
   .
   # RHYTHM:  Currently tachycardiac in sinus rhythm.  Unclear if this is
   related to catecholaminergic response to being off starling curve.
   - Monitor on tele
   - diuresis as above.
   - [**Hospital1 **] lytes
   .
   #  Transaminitis:  Unclear etiology.  AST 133; ALT 237.  Likely
   congestive hepatomegaly.
   - Trend in AM
   - f/u hepatitis serology
   - Hold statin for now.
   .
   #  Diabetes mellitus: hold metformin and pioglitazone given CHF
   -start humalog sliding scale
   - f/u HgB a1c
   -monitor FSG measurements
   .
   #  Hyponatremia:  Na 133.  Likely hypervolemic hyponatremia due to CHF
   exacerbation.
   - Monitor post diuresis
   - Check Urine lytes if not improved
   .
   #  Dysphagia: Patient presented to PCP's office with initial complants
   of dysphagia.  Patient was evaluated by speech/swallow and didn't
   recommend any changes in diet.
   - consider barium swallow when cardiopulmonary status improves
   - Cardiac diet
   .
   FEN:  Cardiac heart healthy diet
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with SCH
   -Bowel regimen with Colace
   .
   CODE: Full Code
   .
   COMM:  [**Name (NI) 6934**] [**Name (NI) 803**] (Niece) [**Telephone/Fax (1) 11047**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2146-9-13**] 06:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2146-09-15 07:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Atrial tachycardia with rate in the 120s, asymptomatic.
   - NSVT x2, asymptomatic during the episodes, added metoprolol 12.5 TID.
   - TSH was noted to be 2.1 on [**9-10**].
   - hepatitis panel is pending
   - plavix was stopped, on captopril 6.25, was increased to 12.5 mg.
   - CT surgery evaluated and will not intervene (unlikely to have good
   touchdown).
   - CXR - fluid overload with b/l costophrenic angle blunting.
   - diuresis continuing.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Metoprolol - [**2146-9-14**] 03:49 PM
   Furosemide (Lasix) - [**2146-9-14**] 05:44 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-9-15**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.2
   HR: 89 (85 - 117) bpm
   BP: 107/65(83) {90/43(60) - 125/84(91)} mmHg
   RR: 30 (8 - 38) insp/min
   SpO2: 98%
   Heart rhythm: SVT (Supra Ventricular Tachycardia)
   Wgt (current): 91.7 kg (admission): 95.6 kg
             Total In:
                                                                    400 mL
                                                                    252 mL
   PO:
                                                                    400 mL
                                                                    170 mL
   TF:
   IVF:
   82 mL
   Blood products:
   Total out:
                                                                  2,760 mL
                                                                    450 mL
   Urine:
                                                                  2,760 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,360 mL
                                                                   -198 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///31/
   Physical Examination
   GENERAL: Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of 9cm.
   CARDIAC: Tachycardic, PMI located in 5th intercostal space,
   midclavicular line. RR, normal S1, S2. No m/r/g. No thrills, lifts. No
   S3 or S4.
   LUNGS: Diffuse rales [**12-21**] of the way up on the lungs bilaterally, apices
   bilaterally clear to auscultation.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: 2+ BLE Edema to knees bilaterally
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ DP dopplerable PT dopplerable
   Left: Carotid 2+ Femoral (Sheath in place) DP dopplerable PT
   dopplerable
   Labs / Radiology
   223 K/uL
   11.3 g/dL
   82 mg/dL
   1.3 mg/dL
   31 mEq/L
   3.8 mEq/L
   19 mg/dL
   98 mEq/L
   135 mEq/L
   31.8 %
   7.8 K/uL
        [image002.jpg]
                            [**2146-9-13**]  07:54 PM
                            [**2146-9-13**]  08:15 PM
                            [**2146-9-14**]  03:25 AM
                            [**2146-9-14**]  03:06 PM
                            [**2146-9-15**]  04:56 AM
   WBC
   8.6
   8.7
   7.8
   Hct
   34.1
   34.8
   31.8
   Plt
   266
   221
   223
   Cr
   1.3
   1.4
   1.3
   1.3
   TCO2
   22
   Glucose
   [**Telephone/Fax (3) 11090**]2
   Other labs: PT / PTT / INR:14.2/32.9/1.2, ALT / AST:237/133, Alk Phos /
   T Bili:70/0.7, Lactic Acid:1.9 mmol/L, Ca++:8.3 mg/dL, Mg++:2.7 mg/dL,
   PO4:3.3 mg/dL
   Assessment and Plan
   67 yo female with history significant for HTN, DM, and dyslipidedemia
   who presenting with dyspnea and found to have ischemic cardiomyopathy
   (EF 20-25%) and chronic 2 vessel diffuse CAD.
   .
   # CORONARIES:  s/p Cardiac Catheterization that shows LMCA 50% ostial
   lesions, LAD with mid subtotal occlusion. RCA has a mid vessel
   occlusion with collaterals from the LAD to the distal RCA. LCx with no
   significant dz. Patient with multivessel coronary diease.  No evidence
   of new ischemic event.
   - Continue ASA 325mg daily
   - D/C Plavix 75 mg daily
   - Hold Atorvastatin for now in light of LFT abnomalities, trend in AM,
   consider restarting if normal.
   - per CT surgery, not a candidate for CABG given poor targets for
   touchdown; as patient could not be intervened on in [**Last Name (LF) 11055**], [**First Name3 (LF) **] require
   maximal medical therapy
   .
   # PUMP:  Acute systolic heart failure.  NHYA Class II-III.  Patient
   with signs of left and right sided heart failure.  The patient had PCWP
   of 43 on Cath and had multivessel CAD.  Likely ischemic CM, with LVEF
   25-30%.  Patient maintaining MAP > 60, has rales on NRB, with slightly
   cool extemities.  As patient continues to maintain MAP > 60, plan to
   intermittantly bolus lasix.  If patient becomes hypotensive, will
   consider starting dobutamine gtt and place A-line and RIJ.  Last ABG
   7.40/35/190/22.  Patient's tachycardia may be a compensatory result and
   may decrease after patient is adequately diursed and back on starling
   curve.
   - Continue Lasix 40mg IV boluses prn, goal negative 1-2L overnight.
   - on BB, ACEI; will titrate as BP/HR allow
   - patient may require ICD given EF 20-25%; unclear if patient has
   ischemic vs. nonischemic cardiomyopathy as global hypokinesis noted on
   echo.  If patient has nonischemic CM, per SCD-HEFT criteria would need
   to be NYHA Class II/III at baseline, on medical treatment, to be
   candidate for ICD placement.  If ischemic CM, given patient
s EF ICD is
   likely indicated.  Discuss with EP.
   - Low Na diet, education
   .
   # RHYTHM:  Currently tachycardiac in sinus rhythm.  Unclear if this is
   related to catecholaminergic response to being off starling curve.
   - Monitor on tele
   - diuresis as above.
   - [**Hospital1 **] lytes
   .
   #  Transaminitis:  Unclear etiology.  AST 133; ALT 237.  Likely
   congestive hepatomegaly.
   - Trend in AM
   - f/u hepatitis serology
   - Hold statin for now.
   .
   #  Diabetes mellitus: hold metformin and pioglitazone given CHF
   -start humalog sliding scale
   - f/u HgB a1c
   -monitor FSG measurements
   .
   #  Hyponatremia:  Na 133.  Likely hypervolemic hyponatremia due to CHF
   exacerbation.
   - Monitor post diuresis
   - Check Urine lytes if not improved
   .
   #  Dysphagia: Patient presented to PCP's office with initial complants
   of dysphagia.  Patient was evaluated by speech/swallow and didn't
   recommend any changes in diet.
   - consider barium swallow when cardiopulmonary status improves
   - Cardiac diet
   .
   FEN:  Cardiac heart healthy diet
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with SCH
   -Bowel regimen with Colace
   .
   CODE: Full Code
   .
   COMM:  [**Name (NI) 6934**] [**Name (NI) 803**] (Niece) [**Telephone/Fax (1) 11047**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2146-9-13**] 06:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: